US08445674B2
D) (S)-1-[4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-3,3-dimethyl-4-oxo-butyl]-3-methyl-piperazin-2-one
In analogy to intermediate 12E, (S)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-3,3-dimethyl-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester was hydrogenated without aqueous HCl to give the titled compound in 99% yield as light yellow oil. MS: 338.24 (MH+).

reactant | (S)-4-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-3,3-dimethyl-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CCC(C(=O)N1C[C@H](C2(CC2)CC1)O)(C)C)=O)C | C26H37N3O5
reactant | HCl | Cl | ClH
product | (S)-1-[4-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-3,3-dimethyl-4-oxo-butyl]-3-methyl-piperazin-2-one | 99% yield | O[C@H]1C2(CC2)CCN(C1)C(C(CCN1C([C@@H](NCC1)C)=O)(C)C)=O | C18H31N3O3
